US07262185B2
1,2,4-triazole (0.68 g) was dissolved in THF (8.0 ml), potassium carbonate (2.7 g) was added to the mixture, a solution of 1-(3-bromopropyl)-4-nitrobenzene (1.6 g) in. THF (8.0 ml) was added dropwise to the solution, and the mixture was stirred for 60 hours at 50° C. After cooling to room temperature, the reaction solution was added to water and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 1-[3-(4-nitrophenyl)propyl]-1,2,4-triazole (0.69 g).

reactant | 1,2,4-triazole | 0.68 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-bromopropyl)-4-nitrobenzene | 1.6 g | BrCCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H10BrNO2
reactant | water | O | H2O
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
product | 1-[3-(4-nitrophenyl)propyl]-1,2,4-triazole | 0.69 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCN1N=CN=C1 | C11H12N4O2
